US05861401
2-Amino-3-bromo-5-methylpyrazine (0.374 g) was added to a freshly prepared solution of sodium methoxide in methanol (made by addition of sodium (0.115 g) to methanol (6 ml)). The reaction was heated under reflux for 18 hours, cooled to ambient temperature and the solvent removed by evaporation. Water (5 ml) was added to the residue and extracted with dichloromethane (3×20 ml). The combined organic extracts were dried (MgSO4) and the solvent removed by evaporation. The residue was purified by chromatography on silica gel, eluting with dichloromethane to give 2-amino-3-methoxy-5-methylpyrazine as a white crystalline solid (0.208 g, 75%), m.p. 67°-69° C.; mass spectrum (+ve CI): 140 (M+H)+.

reactant | 2-Amino-3-bromo-5-methylpyrazine | 0.374 g | NC1=NC=C(N=C1Br)C | C5H6BrN3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 6 ml, 0.115 g | CO | CH4O
product | 2-amino-3-methoxy-5-methylpyrazine | 0.208 g, 75% | NC1=NC=C(N=C1OC)C | C6H9N3O
